US06737383B1
Step B: Preparation of 4-(2,6-Dimethylphenyl)-1,2,4-oxadiazolidine-3,5-dione
A 300 mL flask with side arm equipped with a nitrogen inlet and a thermometer was charged with 25 mL of tetrahydrofuran followed by 5.00 g (0.0277 mol) of 2,6-dimethylphenyl hydroxyurea. To this stirred suspension was added portion-wise 4.41 g (0.0277 mol) of carbonyl diimidazole over 5 min. While stirring at room temperature, the suspension turned into a solution before precipitate started to form slowly. After 18 h, the mixture was quenched with 50 mL of 1N HCl which caused the suspension to turn into a solution. It was partitioned between ethyl acetate (250 mL) and 1N HCl (50 mL). The organic layer was separated and washed with brine, then dried over MgSO4 and filtered. The solvent was removed under reduced pressure to give the title compound as a red oil (5.20 g) which slowly crystallized upon standing at room temperature to give a solid melting at 90-100° C.

reactant | 2,6-dimethylphenyl hydroxyurea | 0.0277 mol, 5.00 g | CC1=C(C(=CC=C1)C)N(C(=O)N)O | C9H12N2O2
reactant | carbonyl diimidazole | 0.0277 mol, 4.41 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-(2,6-Dimethylphenyl)-1,2,4-oxadiazolidine-3,5-dione | 5.20 g | CC1=C(C(=CC=C1)C)N1C(NOC1=O)=O | C10H10N2O3
